US06063932
(+/-)-N-[2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethyl]-2,6-difluorobenzamide
To a slurry of 1.1 g of (+/-)-α-(chloromethyl)-4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-methanamine hydrochloride in 13 mL of ethyl acetate was added 0.60 g of 2.6-difluorobenzoyl chloride. 0.60 g of sodium bicarbonate, and 3 mL of water. After 15 min, ethyl acetate was added and the organic phase was washed with aqueous NaCl, dried (MgSO4), filtered, and concentrated to dryness. The residue was triturated with toluene/hexanes, filtered, washed with hexanes, and suction-dried to afford 1.22 g of product, m.p. 148-150° C. 1H-NMR (CDCl3): δ4.0 (dq, 2H), 5.6 (m, 1H), 6.75 (br d, 1H), 6.85 (t, 1H, J=60 Hz), 7.0 (t, 2H), 7.4 (m, 1H), 7.5 (d, 2H), 7.6 (m, 6H).

reactant | (+/-)-α-(chloromethyl)-4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-methanamine hydrochloride | 1.1 g | Cl.ClCC(N)C1=CC=C(C=C1)C1=CC=C(C=C1)SC(F)F
reactant | 2.6-difluorobenzoyl chloride | 0.60 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | sodium bicarbonate | 0.60 g | C([O-])(O)=O.[Na+]
reactant | water | 3 mL | O | H2O
solvent | ethyl acetate | 13 mL | C(C)(=O)OCC | C4H8O2
product | (+/-)-N-[2-chloro-1-[4'-[(difluoromethyl)thio][1,1'-biphenyl]-4-yl]ethyl]-2,6-difluorobenzamide | 1.22 g | ClCC(C1=CC=C(C=C1)C1=CC=C(C=C1)SC(F)F)NC(C1=C(C=CC=C1F)F)=O | C22H16ClF4NOS
